2157-06-01 07:31:00 Physician Resident Progress Note
Chief Complaint: Acute blood loss, chest pain, hypotension
   24 Hour Events:
   - Central venous access obtained via left IJ
   - Was transfused 3 units PRBCs with HCT bump from 19.3 to 27.5
   - Blood pressure stabilized with fluid and blood products and patient
   was sent to CT scan, which confirmed hemothorax on left
   - Repeat morning HCT was 24.9 and another 2 units PRBCs were ordered
   - Was transfused with FFP and platelets in preparation for OR
   - Pain was difficult to control as it escalated in early morning of
   [**6-1**] and switch from morphine IV to hydromorphone IV was made
   - Due to nausea, was given IV ondansetron as well as bowel regimen
   Review of systems:
   Patient complaining of left lateral chest pain, flank pain, and
   abdominal pain. Also with nausea, but no vomiting
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-6-1**] 12:00 AM
   Morphine Sulfate - [**2157-6-1**] 06:10 AM
   Hydromorphone (Dilaudid) - [**2157-6-1**] 06:30 AM
   Other medications:
   Flowsheet Data as of  [**2157-6-1**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.6
C (96.1
   HR: 90 (74 - 90) bpm
   BP: 129/75(88) {84/50(59) - 129/75(88)} mmHg
   RR: 21 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
    CVP: 19 (7 - 19)mmHg
   Total In:
                                                                  1,816 mL
                                                                    781 mL
   PO:
   TF:
   IVF:
                                                                  1,019 mL
                                                                     30 mL
   Blood products:
                                                                    798 mL
                                                                    751 mL
   Total out:
                                                                    140 mL
                                                                    555 mL
   Urine:
                                                                    140 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,676 mL
                                                                    226 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   Physical Examination
   GEN: Lying flat on back, smiling
   HEENT: PERRL, EOMI, oral mucosa slightly dry
   NECK: Left IJ central line is placed without bleeding or exudates
   surrounding
   PULM: Basilar crackles on right, Left anterior lung field with markedly
   decreased breath sounds, pleurex and chest tube dressing intact and
   both are draining dark serous fluid
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: BS+, tender to light palpation, most localized to the left upper
   quadrant, no rebound, no guarding
   EXT: no C/C/E
   NEURO: Awake and oriented x 3
   Labs / Radiology
   141 K/uL
   9.7 g/dL
   166 mg/dL
   2.4 mg/dL
   19 mEq/L
   5.2 mEq/L
   61 mg/dL
   106 mEq/L
   138 mEq/L
   24.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2157-6-1**]  02:07 AM
                             [**2157-6-1**]  05:02 AM
   WBC
   8.0
   Hct
   27.5
   24.9
   Plt
   141
   Cr
   2.4
   TropT
   0.09
   Glucose
   166
   Other labs: PT / PTT / INR:15.3/86.6/1.3, , ALT / AST:[**3-28**], Alk Phos /
   T Bili:105/1.9, Fibrinogen:523 mg/dL, LDH:171 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:5.3 mg/dL
   Cardiac enzymes:
   [**2157-6-1**] 02:07AM    CK 182, CK-MB 19, MB Index 10.4, Troponin 0.09
   [**2157-5-31**] 07:40PM    CK 88, Troponin  0.05
   [**2157-5-31**] 05:06PM    CK 71, Troponin   0.04
   [**2157-5-29**] 09:35AM    CK-MB 6, Troponin   <0.01
   Pleural fluid data:
   WBC, Pleural
                                                                      222*
                                    #/uL
                                    0 - 0
   RBC, Pleural
                                                                     3017*
                                    #/uL
                                    0 - 0
   Polys
                                                                        2*
                                      %
                                    0 - 0
   Lymphocytes
                                                                       51*
                                      %
                                    0 - 0
   Monos
                                                                       10*
                                      %
                                    0 - 0
   Mesothelial Cells
                                                                        1*
                                      %
                                    0 - 0
   Macrophages
                                                                       36*
                                      %
   Pleural fluid cytology is pending.
   Pleural fluid micro cultures are negative thus far.
   Assessment and Plan:
   66 year old man with recurrent left pleural effusion and left
   Pleurex/chest tube now with acute blood loss anemia and hypovolemic
   shock, presumably from hemothorax.
   # Acute blood loss anemia and hypovolemic shock:
   CT torso early this AM confirms hemothorax. Heterogeneous collection
   may point to coagulated collection that could be difficult to drain
   with chest tube; however, given that patient is poor operative
   candidate, interventional pulmonology would like to attempt chest tube
   placement to relieve hemothorax. Likely source of hemorrhage is one of
   the biopsy sites from pleural biopsies at admission.
   - Continue to check HCT Q4H and transfuse PRBC as needed with goal of
   stabilization of blood volumeon serial checks
   - IP to manage with chest tube initially
   - Thoracic surgery team involved and following closely in case need for
   operative management of hemothorax in event that additional chest tube
   placement by interventional pulmonology is not successful in draining
   current collection
   - FFP as needed to correct coagulopathy
   ## Chronic systolic and diastolic CHF:
   No acute exacerbation. Patient is tolerating fluid and blood product
   resuscitation well.
   - Hold antihypertensives for now
   ## Recurrent exudative pleural effusion:
   Questionable etiology at this point; however, intrapleural pacer wires
   may present nidus for inflammation and chronic effusions.
   - Consult electrophysiology to help sort out active vs. inactive pacer
   wires and potential for removal of leads if the are suspected cause of
   chronic effusions.
   - f/u cytology and pleural biopsies
   ## DM2:
   - sliding scale insulin; hold oral meds
   ## Acute on chronic renal insufficiency:
   Presumably prerenal in the setting of hypovolemic shock.
   - Continue to trend and give fluids as needed to support blood pressure
   and UOP.
   ## CAD s/p CABG:
   Cardiac enzymes are trending up s/p hypotensive and anemic period in
   last few days. Likely demand ischemia instead of a true NSTEMI.
   - holding aspirin and clopidogrel given acute bleeding
   - holding beta blocker, ACEi for now
   - Trend cardiac enzymes given ongoing shock
   ICU Care
   Nutrition: NPO pending operative procedure
   Glycemic Control: Insulin sliding scale
   Lines:
   20 Gauge x 2
   Left IJ central venous catheter
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Not indicated, though on PPI
   Communication: Family meeting held , ICU consent signed. Communication
   is with wife and daughter (Cell [**Telephone/Fax (1) 8785**], home [**Telephone/Fax (1) 8786**])
   Code status: FULL
   Disposition: ICU pending hemodynamic stability as well as potential
   operative intervention

2157-06-01 09:23:00 Physician Attending Progress Note
Chief Complaint: hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yo man with ischemic CM, EF 25%, chronic renal failure, was admitted
   to recurrent Left exudative effusion.  Had pleuroscopy, pleural biopsy,
   1.6L drained, Chest tube left in.  Hct yesterday was 24 (adm was 39.3,
   3 days prior) was hypotensive intermittently throughout the day, and
   repeat Hct came back at 19.  Left IJ placed.  5 Units of PRBC, 2Unit of
   FFP.  CT torso with acute hemorrhage in left pleural space.  Never on
   pressors, BP improved, but has had left sided pain.
   24 Hour Events:
 NASAL SWAB - At [**2157-5-31**] 09:38 PM
 MULTI LUMEN - START [**2157-5-31**] 11:34 PM
 EKG - At [**2157-6-1**] 04:54 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-6-1**] 12:00 AM
   Morphine Sulfate - [**2157-6-1**] 06:10 AM
   Hydromorphone (Dilaudid) - [**2157-6-1**] 06:30 AM
   Other medications:
   SSI
   PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-6-1**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.2
C (95.4
   HR: 87 (74 - 90) bpm
   BP: 128/72(86) {84/50(59) - 129/75(88)} mmHg
   RR: 21 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   CVP: 18 (7 - 19)mmHg
   Total In:
                                                                  1,816 mL
                                                                  1,199 mL
   PO:
   TF:
   IVF:
                                                                  1,019 mL
                                                                     47 mL
   Blood products:
                                                                    798 mL
                                                                  1,152 mL
   Total out:
                                                                    140 mL
                                                                    705 mL
   Urine:
                                                                    140 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,676 mL
                                                                    494 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   136 K/uL
   166 mg/dL
   2.4 mg/dL
   19 mEq/L
   5.2 mEq/L
   61 mg/dL
   106 mEq/L
   138 mEq/L
   24.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2157-6-1**]  02:07 AM
                             [**2157-6-1**]  05:02 AM
                             [**2157-6-1**]  07:28 AM
   WBC
   8.0
   8.2
   Hct
   27.5
   24.9
   24.4
   Plt
   141
   136
   Cr
   2.4
   TropT
   0.09
   Glucose
   166
   Other labs: PT / PTT / INR:14.5/62.8/1.3, CK / CKMB /
   Troponin-T:182/19/0.09, ALT / AST:[**3-28**], Alk Phos / T Bili:105/1.9,
   Fibrinogen:523 mg/dL, LDH:171 IU/L, Ca++:8.5 mg/dL, Mg++:2.6 mg/dL,
   PO4:5.3 mg/dL
   Assessment and Plan
   Hemorrhage:  Possibly from pleural biopsy site.  Heterogeneous
   collection on CT c/w clotted blood.  [**Month (only) 60**] need OR to evacuate. Follow
   hct and coags closely.
   Chronic renal failure:  creatinine lower from baseline.
   Systolic heart failure:  not in pulmonary edema currently, but watch
   with blood and FFP repletion.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2157-5-31**] 08:57 PM
   Multi Lumen - [**2157-5-31**] 11:34 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill